US05123952
A solution of 2.7 ml of acetyl chloride in 20 ml of dioxane was added dropwise to a solution of 4.0 g (0.032 mol) of 5-amino-1-methyl-6-pyridazone in 100 ml of pyridine. After stirring for 12 hours at 25° C., the solvent was distilled off under reduced pressure, and the residue was taken up with methylene chloride, washed with sodium bicarbonate solution and dried. After the solvent had been stripped off under reduced pressure and the residue stirred with a small amount of diisopropyl ether, there was obtained 3.1 g (58.0%) of 5-acetylamino-1-methyl-6-pyridazone (active ingredient 1.001) of melting point 152°-153° C.

reactant | acetyl chloride | 2.7 ml | C(C)(=O)Cl | C2H3ClO
reactant | 5-amino-1-methyl-6-pyridazone | 0.032 mol, 4.0 g | NC1=CC=NN(C1=O)C | C5H7N3O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 5-acetylamino-1-methyl-6-pyridazone | 3.1 g, 58.0% | C(C)(=O)NC1=CC=NN(C1=O)C | C7H9N3O2
